US07534547B2
A Grignard reagent was prepared from a solution of 50 ml of dried tetrahydrofuran in which 0.88 g (36.7 mmol) of magnesium and 10.0 g (35.6 mmol) of 1-(trans-4-n-propylcyclohexyl)-4-bromobenzene were dissolved, and the Grignard reagent was put into dry ice. After vaporizing the dry ice, hydrochloric acid was added to the resultant to give a precipitate, and the precipitate was filtered, washed with water, dried, and recrystallized from toluene to give 7.5 g (30.5 mmol) of p-(trans-4-propylcyclohexyl)benzoic acid.

reactant | magnesium | 36.7 mmol, 0.88 g | [Mg] | Mg
reactant | 1-(trans-4-n-propylcyclohexyl)-4-bromobenzene | 35.6 mmol, 10.0 g | C(CC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)Br | C15H21Br
reactant | dry ice | C(=O)=O | CO2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | p-(trans-4-propylcyclohexyl)benzoic acid | 30.5 mmol, 7.5 g | C(CC)[C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)O)C=C1 | C16H22O2
